US09359340B2
To a solution of (5R)-4-chloro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-yl acetate (0.5 g, 2.2 mmol) in NMP (10 mL) was added 1-Boc-piperazine (0.9 g, 4.8 mmol). The reaction mixture was heated to 110° C. for 12 hours. After cooling, the reaction mixture was diluted with ethyl acetate (200 mL) and washed with water (6×100 mL). The organic phase was dried and concentrated. The residue was purified by silica gel chromatography, eluting with ethyl acetate to give tert-butyl 4-((5R)-7-acetoxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate (0.6 g, 72%). 1H NMR (CDCl3, 400 MHz) δ 8.60 (d, 1H), 6.05-5.90 (m, 1H), 3.80-3.30 (m, 9H), 2.84 (m, 1H), 2.20 (m, 1H), 1.49 (s, 9H), 1.29-1.20 (m, 3H). MS (APCI+) [M+H] +377. The resulting mixture of the diastereomers was purified by chiral separation HPLC (Chiralcel ODH column, 250×20 mm, Hexane/EtOH 60:40, 21 mL/min). The first peak (RT=3.73 min) gave the tert-butyl 4-((5R,7R)-7-acetoxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate (0.144 g, 24%). The second peak (RT=5.66 min) gave the tert-butyl 4-((5R,7S)-7-acetoxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate (0.172 g, 29%). MS (APCI+) [M+H] +377.

reactant | (5R)-4-chloro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-yl acetate | 2.2 mmol, 0.5 g | C(C)(=O)OC1C[C@H](C2=C1N=CN=C2Cl)C | C10H11ClN2O2
reactant | 1-Boc-piperazine | 4.8 mmol, 0.9 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-((5R)-7-acetoxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate | 0.6 g, 72% | C(C)(=O)OC1C[C@H](C2=C1N=CN=C2N2CCN(CC2)C(=O)OC(C)(C)C)C | C19H28N4O4
